US08257931B2
4-(3,4-Dichloro-phenyl)-thiazol-2-yl-hydrazine
A solution of a thiosemicarbazide (10 mmol, 0.91 g) and 3,4-dichlorophenylacetyl bromide (10 mmol, 2.68 g) in dioxane (20 mL) was stirred at room temperature for 16 h. The precipitate of hydrobromide salt was filtered and washed with dioxane (3×10 mL) basified with 2N Na2CO3 (20 mL). The product was filtered, washed with water and dried (2.08 g, 80%). The product was generally satisfactory for further reaction. 1H NMR (400 MHz) δ 8.67 (s, 1H, NH), 8.00 (d, J=1.6 Hz, 1H), 7.76 (dd, J=1.6 Hz, J=8.4 Hz, 1H), 7.60 (d, J=8.4 Hz, 1H), 7.31 (s), 1H MS+(APCI), 259.68, (M+1; calcd 258.97 (M+)

reactant | thiosemicarbazide | 10 mmol, 0.91 g | NNC(=S)N | CH5N3S
reactant | 3,4-dichlorophenylacetyl bromide | 10 mmol, 2.68 g | ClC=1C=C(C=CC1Cl)CC(=O)Br | C8H5BrCl2O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 4-(3,4-Dichloro-phenyl)-thiazol-2-yl-hydrazine | ClC=1C=C(C=CC1Cl)C=1N=C(SC1)NN | C9H7Cl2N3S
